US06498159B1
690 mg of 4-[(3-chloro-4-methoxybenzyl)amino]-1-[2-(1-hydroxycyclopentyl)-1-ethynyl]-6-phthalazine carbonitrile was dissolved in 200 ml tetrahydrofuran, 50 mg of 10% Pd—C was added thereto, and the mixture was stirred for 0.5 hr in a hydrogen atmosphere. The reaction solution was filtered through Celite, and the filtrate was evaporated. The resulitng residue was purified by silica gel column chromatography to give 400 mg of 4-[(3-chloro-4-methoxybenzyl)amino]-1-[2-(1-hydroxycyclopentyl)ethyl]-6-phthalazine carbonitrile. This product was converted in a usual manner into the hydrochloride.

reactant | 4-[(3-chloro-4-methoxybenzyl)amino]-1-[2-(1-hydroxycyclopentyl)-1-ethynyl]-6-phthalazine carbonitrile | 690 mg | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)C#CC2(CCCC2)O)C=CC1OC | C24H21ClN4O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | 4-[(3-chloro-4-methoxybenzyl)amino]-1-[2-(1-hydroxycyclopentyl)ethyl]-6-phthalazine carbonitrile | 400 mg | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)CCC2(CCCC2)O)C=CC1OC | C24H25ClN4O2
